US08633312B2
(R)-2-(2-Aminophenylamino)-8-(2,3-dihydroxypropoxy)-10,11-dihydrodibenzo[a,d]cyclohepten-5-one (12d)
For the synthesis of the title compound, 0.10 g (0.225 mmol) of (S)-2-(2-amino-phenylamino)-8-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-10,11-dihydrodibenzo[a,d]cyclohepten-5-one and 0.0537 g (0.282 mmol) of p-toluenesulfonic acid monohydrate in 6 ml of methanol and 1.5 ml of water are reacted by method N. C24H24N2O4 (Mr=404.47)

reactant | (S)-2-(2-amino-phenylamino)-8-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-10,11-dihydrodibenzo[a,d]cyclohepten-5-one | 0.225 mmol, 0.10 g | NC1=C(C=CC=C1)NC1=CC2=C(C(C3=C(CC2)C=C(C=C3)OC[C@@H]3OC(OC3)(C)C)=O)C=C1 | C27H28N2O4
reactant | p-toluenesulfonic acid monohydrate | 0.282 mmol, 0.0537 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 6 ml | CO | CH4O
solvent | water | 1.5 ml | O | H2O
product | (R)-2-(2-Aminophenylamino)-8-(2,3-dihydroxypropoxy)-10,11-dihydrodibenzo[a,d]cyclohepten-5-one | NC1=C(C=CC=C1)NC1=CC2=C(C(C3=C(CC2)C=C(C=C3)OC[C@@H](CO)O)=O)C=C1 | C24H24N2O4
